US06262074B1
Step 1: 5-Nitro-6-methylquinoline
2.45 mol of 6-methylquinoline were added to 1 l of concentrated sulfuric acid, and 2.94 mol of 65% strength nitric acid were added dropwise at 0 to 10° C. The mixture was stirred for 1 hour, poured onto ice, adjusted to pH 2.5 with aqueous sodium hydroxide solution, filtered off with suction, washed with water and dried over magnesium sulfate.

reactant | 6-methylquinoline | 2.45 mol | CC=1C=C2C=CC=NC2=CC1 | C10H9N
reactant | sulfuric acid | 1 l | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-Nitro-6-methylquinoline | [N+](=O)([O-])C1=C2C=CC=NC2=CC=C1C | C10H8N2O2
